US04289711
(±) Trans Ethyl-3-(β,β-Dichloro-α-Tosyloxyethyl)-2,2-Dimethylcyclopropane-1-Carboxylate
A solution of (±) trans ethyl 3-(β,β-dichloro-α-hydroxyethyl)-2,2-dimethylcyclopropane-1-carboxylate (28.0 g, 0.11 M) in pyridine (168 ml) was added dropwise to a solution of tosyl chloride (44.2 g, 0.23 M) in pyridine (224 ml) maintained at 40° C. After the addition the mixture was stored for 3 days at 4° C. The majority of the pyridine was removed under vacuum at 40° C. and the residue was poured into ice/water (200 ml). After acidification with concentrated hydrochloric acid, this mixture was extracted with ether (3×100 ml), the ether layers combined, dried and evaporated to a pale yellow oil, which crystallised on standing. The tosylate was recrystallised from cyclohexane, m.p. 71° C.

reactant | (±) trans ethyl 3-(β,β-dichloro-α-hydroxyethyl)-2,2-dimethylcyclopropane-1-carboxylate | 0.11 M, 28.0 g | ClC(C(O)[C@@H]1C([C@H]1C(=O)OCC)(C)C)Cl | C10H16Cl2O3
reactant | tosyl chloride | 0.23 M, 44.2 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 168 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 224 ml | N1=CC=CC=C1 | C5H5N
product | (±) Trans Ethyl-3-(β,β-Dichloro-α-Tosyloxyethyl)-2,2-Dimethylcyclopropane-1-Carboxylate | C(C)OC(=O)[C@@H]1C([C@H]1C(C(Cl)Cl)OS(=O)(=O)C1=CC=C(C)C=C1)(C)C | C17H22Cl2O5S
